US08012974B2
Racemic trans 3-tert-butoxycarbonylamino-cyclohexanecarboxylic acid (1 g, 4.11 mmol) was dissolved in THF (30 mL) and borane dimethylsulfide 2M in THF (3 mL, 6 mmol) was added slowly. The resulting colorless solution was stirred at 40° C. After 4 hours the reaction mixture was cooled to 0° C., quenched by addition of saturated aqueous NaHCO3, and extracted twice with EtOAc. The combined organic layers were dried (Na2SO4), filtered and evaporated to give 0.905 g of crude racemic trans 3-hydroxymethyl-cyclohexyl-carbamic acid tert-butyl ester as a colorless oil (>95% yield).

reactant | Racemic trans 3-tert-butoxycarbonylamino-cyclohexanecarboxylic acid | 4.11 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](CCC1)C(=O)O | C12H21NO4
reactant | borane dimethylsulfide | 2M | CSC.B
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mmol, 3 mL | C1CCOC1 | C4H8O
product | racemic trans 3-hydroxymethyl-cyclohexyl-carbamic acid tert-butyl ester | 0.905 g, >95% yield | C(C)(C)(C)OC(N[C@@H]1C[C@H](CCC1)CO)=O | C12H23NO3
